US04638000
In N,N-dimethylformamide (5 ml) is dissolved 3-(o-aminophenyl)thio-2(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]aminopropionic acid dihydrochloride (0.16 g), and diethyl phosphorocyanidate (0.3 ml) is added dropwise to the solution. To the mixture is added triethylamine (0.2 ml) and the reaction mixture is stirred under ice-cooling for 1 hour. The reaction mixture is diluted with water (100 ml) and extracted with ethyl acetate (50 ml). The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silicagel column chromatography (hexane: acetone=2:1) to give 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one (0.09 g) as a colorless oil.

reactant | 3-(o-aminophenyl)thio-2(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]aminopropionic acid dihydrochloride | 0.16 g | Cl.Cl.NC1=C(C=CC=C1)SC[C@@H](C(=O)O)NC(CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC
reactant | diethyl phosphorocyanidate | 0.3 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 0.09 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C30H39N3O5S
